" Root Locus 2nd order voltage follower"
* File: RLvFollower-2.cir
.source V1
.detector V_3
.lgRef E1
V1 1 0 {V_s}
R1 1 2 {R_s}
E1 3 0 2 3 {A_0/(1-s/p_1)/(1-s/p_2)}
R2 3 0 {R_ell}
* For pole-zero analysis all parameters must have a numeric value
.param A_0=1M 
+ p_1={-2*pi/sqrt(2)} 
+ p_2={-2*pi*1M*sqrt(2)} 
+ R_ell=1 R_s=1 V_s=1
.end
